US07419984B2
To a stirred mixture of 4,6-dichloro-pyrimidin-2-yl-amine (2.46 g, 15.0 mmol) and sodium acetate (6.15 g, 75.0 mmol) in acetic acid (150 ml) was added bromine (3.24 g, 20.25 mmol) dropwise. The mixture was then stirred at 60° C. for 2 hours. Volatiles were evaporated under reduced pressure. The residue was stirred with water (500 ml) for 1 hour, filtered, and dried under reduced pressure to provide 2-amino-4,6-dichloro-5-bromo-pyrimidine (3.2 g, 88% yield) as a white solid.

reactant | 4,6-dichloro-pyrimidin-2-yl-amine | 15.0 mmol, 2.46 g | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | sodium acetate | 75.0 mmol, 6.15 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 20.25 mmol, 3.24 g | BrBr | Br2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4,6-dichloro-5-bromo-pyrimidine | 3.2 g, 88% yield | NC1=NC(=C(C(=N1)Cl)Br)Cl | C4H2BrCl2N3
